US04239753
A reaction mixture consisting of 12.25 gm. (0.050 mole) of 1-(2-deoxy-β-D-ribofuranosyl)-5,6-dihydro-5-methyl-s-triazine-2,4-(1H,3H)-dione, 50 ml. dimethylformamide, and 8.5 gm. (0.125 mole) of imidazole was warmed to 35° C. and stirred until the imidazole had dissolved. There was then added with continued stirring 7.55 gm. (0.050 mole) tert-butyldimethylsilyl chloride. Stirring was continued for 18 hours at 35° C. The solvent medium was then removed by evaporation under reduced pressure, and the residue thus obtained was dispersed in a solvent mixture consisting of 200 ml. chloroform and 50 ml. water. The two phases were allowed to stabilize and the aqueous phase was recovered. It was washed two times with 50 ml. portions of chloroform. The three chloroform layers (original and two washings) were combined and washed with three-25 ml. portions of water. The washed chloroform solution was dried over anhydrous magnesium sulfate and filtered. The chloroform was then removed by evaporation under reduced pressure to give 14.8 gm. (82.5% yield) of 1-(5-tert-butyldimethylsilyl-2-deoxy-β-D-ribofuranosyl)5,6-dihydro-5-methyl-s-triazine-2,4-(1H,3H)-dione.

reactant | 1-(2-deoxy-β-D-ribofuranosyl)-5,6-dihydro-5-methyl-s-triazine-2,4-(1H,3H)-dione | 0.050 mole | [C@@H]1(C[C@H](O)[C@H](O1)CO)N1C(NC(N(C1)C)=O)=O | C9H15N3O5
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | imidazole | 0.125 mole | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.050 mole | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(5-tert-butyldimethylsilyl-2-deoxy-β-D-ribofuranosyl)5,6-dihydro-5-methyl-s-triazine-2,4-(1H,3H)-dione | 82.5% yield | [Si](C)(C)(C(C)(C)C)C([C@@H]1[C@H](C[C@@H](O1)N1C(NC(N(C1)C)=O)=O)O)O | C15H29N3O5Si
